US05036077
(A) 3-(2-Benzyl-4-chlorophenoxy)-1,2-epoxypropane
A suspension containing 21.87 g of 2-benzyl-4-chlorophenol, 27.76 g of 1-chloro-2,3-epoxypropane and 27.64 g of potassium carbonate in 200 ml of butanone is refluxed for 12 hours. The inorganic salts formed are filtered off and drained. The solvent and excess 1-chloro-2,3-epoxypropane are evaporated off under vacuum and the residue is distilled at between 160° C. and 180° C. under 0.01 mm of mercury.

reactant | 2-benzyl-4-chlorophenol | 21.87 g | C(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)O | C13H11ClO
reactant | 1-chloro-2,3-epoxypropane | 27.76 g | ClCC1CO1 | C3H5ClO
reactant | potassium carbonate | 27.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 200 ml | CC(CC)=O | C4H8O
product | 3-(2-Benzyl-4-chlorophenoxy)-1,2-epoxypropane | C(C1=CC=CC=C1)C1=C(OCC2CO2)C=CC(=C1)Cl | C16H15ClO2
